US04690934
2.3 g (0.01 mol) of 4-methylsulfonylbenzenesulfonamide were dissolved in 20 ml of pyridine, and added dropwise by 1.7 g (0.01 mol) of 2-chloroisonicotinoyl chloride at room temperature, followed by agitation for 2 hrs. at the same temperature. After acidified by adding aqueous hydrochloric acid, the precipitate was extracted by ethyl acetate. The organic layer obtained was dried and then concentrated to precipitate crude crystals, which were recrystallized by n-hexane/ethyl acetate to 2.8 g (yield: 74.7%) of N-(4-methylsulfonylphenylsulfonyl)-2-chloroisonicotinamide as white crystals.

reactant | 4-methylsulfonylbenzenesulfonamide | 0.01 mol, 2.3 g | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C7H9NO4S2
reactant | 2-chloroisonicotinoyl chloride | 0.01 mol, 1.7 g | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
reactant | hydrochloric acid | Cl | ClH
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-methylsulfonylphenylsulfonyl)-2-chloroisonicotinamide | 2.8 g, yield: 74.7% | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)NC(C1=CC(=NC=C1)Cl)=O | C13H11ClN2O5S2
